US05625050
N6 -Benzoyl-5'-O-tert-butyldimethylsilyl-2'-deoxyadenosine (Compound 5, Table I) was prepared by a procedure similar to that used to prepare the 5'-O-tertbutyldimethylsilylthymidine, as described in Example 1, except that N6 -benzoyl-2'-deoxyadenosine (10 g, 26.9 mmole), 4-N,N-dimethylaminopyridine (0.86 g, 7.0 mmole), triethylamine (3.6 g, 4.96 ml, 35.4 mmole) and tert-butyldimethylchlorosilane (5.33 g, 35.4 mmole) were dissolved in 100 ml dry N,N-dimethylformamide. The reaction was allowed to stir for 2 hours before being worked up as described in Example 1. Chromatography was performed using dichloromethane/ethanol (20/1) as eluent to yield 9.6 g N6 -benzoyl-5'-O-tert-butyldimethylsilyl-2'-deoxyadenosine as a white foam (73% yield).

reactant | 5'-O-tertbutyldimethylsilylthymidine | C(C)(C)(C)OC[C@@H]1[C@H](C[C@@](O1)(N1C(=O)NC(=O)C(C)=C1)[SiH](C)C)O | C16H28N2O5Si
reactant | N6 -benzoyl-2'-deoxyadenosine | 26.9 mmole, 10 g | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N=CN1 | C17H17N5O4
reactant | triethylamine | 35.4 mmole, 4.96 ml, 3.6 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylchlorosilane | 35.4 mmole, 5.33 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N6 -benzoyl-5'-O-tert-butyldimethylsilyl-2'-deoxyadenosine | 9.6 g, 73% yield | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO[Si](C)(C)C(C)(C)C)O3)C2N=CN1 | C23H31N5O4Si
